US05010098
Preparation of 5-bromo-4-chloro-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile
A sample of 5-bromo-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile (0.158 g, 0.005 mole) is dissolved in tetrahydrofuran (5 mL). An equivalent amount of t-butyl hypochlorite is added and the solution stirred overnight. The solution is poured into water and the precipitate (0.052 g, 30%) is collected. The mp is >275° C. In a similiar fashion one can prepare 2-bromo-3-chloro-5-(3,4-dichlorophenyl)-4-nitropyrrole by starting with 2-bromo-5-(3,4-dichlorophenyl)-4-nitropyrrole.

reactant | 5-bromo-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | 0.005 mole, 0.158 g | BrC1=CC(=C(N1)C1=CC(=C(C=C1)Cl)Cl)C#N | C11H5BrCl2N2
reactant | t-butyl hypochlorite | ClOC(C)(C)C | C4H9ClO
reactant | water | O | H2O
reactant | 2-bromo-5-(3,4-dichlorophenyl)-4-nitropyrrole | BrC=1NC(=C(C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)Cl | C10H5BrCl2N2O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-bromo-4-chloro-2-(3,4-dichlorophenyl)pyrrole-3-carbonitrile | BrC1=C(C(=C(N1)C1=CC(=C(C=C1)Cl)Cl)C#N)Cl | C11H4BrCl3N2
